US03939155
To 122 parts of liquid ammonia under reflux is added, with vigorous agitation, a solution of 3 parts of 4',5'-dihydro-3-methoxyspiro[estra-1,3,5(10)-triene 17,2'(3'H)-furan]-4'-ol in a mixture of 81 parts of tetrahydrofuran and 72 parts of 1,1-dimethylethanol, followed -- portionwise -- by 2 parts of lithium wire cut into small pieces. Approximately 2 hours later, 5 parts of methanol is slowly introduced. After an additional 45 minutes, the blue color originally characteristic of the reaction mixture has disappeared, at which point the ammonia is allowed to evaporate and 500 parts of water is added to the residue. The precipitate which forms is filtered off, washed with water, dried in air, and recrystallized from ethyl acetate to give 4',5'-dihydro-3-methoxyspiro[estra-2,5(10)-diene-17,2'(3'H)-furan]-4'-ol melting at 152°-155°.

reactant | ammonia | N | H3N
reactant | 4',5'-dihydro-3-methoxyspiro[estra-1,3,5(10)-triene 17,2'(3'H)-furan]-4'-ol | COC1=CC=2CC[C@H]3[C@@H]4CCC5(OCC(C5)O)[C@@]4(C)CC[C@@H]3C2C=C1 | C22H30O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium | [Li] | Li
solvent | methanol | CO | CH4O
solvent | 1,1-dimethylethanol | CC(C)(O)C | C4H10O
product | 4',5'-dihydro-3-methoxyspiro[estra-2,5(10)-diene-17,2'(3'H)-furan]-4'-ol | COC=1CC=2CC[C@H]3[C@@H]4CCC5(OCC(C5)O)[C@@]4(C)CC[C@@H]3C2CC1 | C22H32O3
